US08314098B2
Synthesis of N-(1H-indol-3-yl-methylidene)-N′-(7-morpholin-4-yl-2-pyrazin-2-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (Compound 93)
To a solution of (7-Morpholin-4-yl-2-pyrazin-2-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (20 mg, 0.064 mM) in ethanol (2.0 mL), there were added 3-formyl-indole (19 mg, 0.13 mM) and acetic acid (5 μL) and the mixture was stirred at room temperature for 3 hours. The precipitated solid was recovered through filtration and then washed with ethanol to thus give the title compound (15 mg, yield: 54%).

reactant | (7-Morpholin-4-yl-2-pyrazin-2-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 0.064 mM, 20 mg | N1(CCOCC1)C1=CC(=NC=2N1N=C(C2)C2=NC=CN=C2)NN | C14H16N8O
reactant | 3-formyl-indole | 0.13 mM, 19 mg | C(=O)C1=CNC2=CC=CC=C12 | C9H7NO
reactant | acetic acid | 5 μL | C(C)(=O)O | C2H4O2
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | N-(1H-indol-3-yl-methylidene)-N′-(7-morpholin-4-yl-2-pyrazin-2-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 15 mg, yield: 54% | N1C=C(C2=CC=CC=C12)C=NNC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=NC=CN=C2 | C23H21N9O
